Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin / morphine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION
=========
___ 06:06AM   ___ PO2-56* PCO2-51* PH-7.39 TOTAL 
CO2-32* BASE XS-4
___ 06:06AM   LACTATE-1.5
___ 05:59AM URINE  HOURS-RANDOM
___ 05:59AM URINE  UHOLD-HOLD
___ 05:59AM URINE  COLOR-Yellow APPEAR-HAZY* SP ___
___ 05:59AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 05:59AM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 05:09AM   GLUCOSE-95 UREA N-15 CREAT-0.5 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-13
___ 05:09AM   CALCIUM-9.6 PHOSPHATE-3.4 MAGNESIUM-2.2
___ 05:09AM   WBC-9.7 RBC-3.47* HGB-10.4* HCT-34.3 MCV-99* 
MCH-30.0 MCHC-30.3* RDW-14.3 RDWSD-52.1*
___ 05:09AM   PLT COUNT-167
___ 05:09AM   ___ PTT-32.6 ___
___ 10:17PM   GLUCOSE-81 UREA N-18 CREAT-0.4 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-27 ANION GAP-14
___ 10:17PM   estGFR-Using this
___ 10:17PM   ALT(SGPT)-<5 AST(SGOT)-17 LD(LDH)-201 ALK 
PHOS-72 TOT BILI-0.6
___ 10:17PM   WBC-8.9 RBC-3.48* HGB-10.5* HCT-33.7* MCV-97 
MCH-30.2 MCHC-31.2* RDW-14.4 RDWSD-51.3*
___ 10:17PM   NEUTS-65.9 ___ MONOS-8.5 EOS-0.9* 
BASOS-0.6 IM ___ AbsNeut-5.89 AbsLymp-2.12 AbsMono-0.76 
AbsEos-0.08 AbsBaso-0.05
___ 10:17PM   PLT COUNT-176

IMAGING
=======
AP portable upright view of the chest.  The patient's chin 
obscures the 
superior mediastinum in the setting of hyper kyphotic thoracic 
deformity.  
Tracheostomy tube is subtly conspicuous.  Multiple chronic 
bilateral rib 
deformities are again seen.  The imaged portions of the lungs 
are relatively clear.  No large effusion is seen.  No 
pneumothorax allowing for limitations. Cardiomegaly is 
unchanged.  Limited evaluation of the mediastinum.  Bony 
structures appear grossly intact. 
  
IMPRESSION:  
Markedly limited exam.  No gross signs for pneumonia.  Thoracic 
hyper kyphosis resultant suboptimal assessment of the lung 
apices and superior mediastinum.

DISCHARGE LABS
================
___ 05:09AM BLOOD WBC-9.7 RBC-3.47* Hgb-10.4* Hct-34.3 
MCV-99* MCH-30.0 MCHC-30.3* RDW-14.3 RDWSD-52.1* Plt ___
___ 05:09AM BLOOD Glucose-95 UreaN-15 Creat-0.5 Na-140 
K-4.4 Cl-100 HCO3-27 AnGap-13
___ 06:06AM BLOOD ___ pO2-56* pCO2-51* pH-7.39 
calTCO2-32* Base XS-4

MICROBIOLOGY
==============
___ 10:17 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

 
Brief Hospital Course:
SUMMARY
=======
Ms. ___ is a ___ year old woman with chronic respiratory 
failure s/p tracheostomy ___ (nocturnally ventilated), chronic 
aspiration s/p PEG, dementia, advanced ___, HTN, 
hyperlipidemia, recent admission for a right fibula fracture, 
and other issues who presented on ___ with apparent 
lethargy (reported by her son, as the patient is variably 
interactive) in the setting of a reported right lower lobe 
pneumonia apparently noted on outpatient imaging on the day 
prior to presentation. On repeat imaging on presentation to 
___, there were no definite signs of pneumonia and there were 
no clinical indications of acute systemic inflammation or 
infection. She remained on her home ventilator settings at night 
and trach mask during the day. Although very broad spectrum 
antibiotics were provided on presentation in the ED, given the 
absence of infection on chest imaging and the lack of clinical 
symptoms of an acute infection, all antibiotics were stopped 
upon ICU admission, and she was monitored off of antibiotics for 
24 hours without any signs of clinical instability. She was 
subsequently discharged home without antibiotics.

ACUTE ISSUES 
============
# Concern for right upper lobe pneumonia (without radiographic 
or clinical evidence of right upper lobe pneumonia) 
# Chronic respiratory failure 
Ms. ___ has a tracheostomy tube in place in the setting of 
chronic respiratory failure, and requires ventilator support at 
night. During the day, she uses a humidifier with 3L of 
supplemental oxygen. Per history provided by her son (who is her 
primary caregiver at home), Ms. ___ has had increased 
secretions over the last week and an out-patient chest x-ray on 
___ was concerning for potential right upper lobe pneumonia. 
However, on presentation to ___, there was no compelling 
radiographic or clinical evidence of pneumonia. Blood cultures 
and a MRSA screen were negative. She specifically had minimal 
secretions on tracheal suctioning, no leukocytosis on her 
complete blood counts, no fever, no hypotension, no tachycardia, 
and no radiographic evidence of pneumonia (although her lung 
apices were not well visualized on chest x-ray to 
kyphoscoliosis). Ms. ___ was continued on her home 
ipratropium and levalbuterol nebuliizer treatemetns, and 
fomoterol(home med). Her ventilator settings should remain at RR 
___, PEEP 5, TV 300 (reduced from 400cc at home, given her 
height and predicted tidal volume), and FiO2 30%

# History of UTIs
In the ED, the patient did not urinate but on the floor she has 
been incontinent of urine. She has a history of UTIs, and during 
a recent prior hospitalizations, on ___ she grew Klebsiella 
and was appropriately treated. She had another UTI while at home 
prior to this hospitalization which was treated empirically with 
cephalexin and then switched to Bactrim. Urinalysis here ___ 
was without evidence of acute cystitis, and while there was 
initial concern for urinary retention she began to void 
spontaneously prior to discharge, and did not have any more 
issues with retention while inpatient.

# ___ disease 
# Dementia
During her last admission, Ms. ___ had some episodes of 
agitation overnight and her outpatient neurologist Dr. ___ 
___ was consulted. At that time, he recommended an additional 
1.5 tabs of Sinamet as needed at 3AM for agitation. During that 
prior hospitalization, this medication change was noted to 
improve her agitation overnight. Her son says that she 
communicates with him, is normally oriented to person and place, 
and can speak with Passy-Muir valve. We continued Sinamet at her 
home doses this admission.

CHRONIC ISSUES 
==============
#B/l UE catheter associated DVT
She had bilateral upper extremity DVTs diagnosed in ___, 
with repeat US in ___ showing no evidence of DVT. Now that she 
has been treated for more than six months, she remains on 
enoxaparin prophylaxis, which we continued during this 
hospitalization (and on discharge). 

#Hypothyroidism: We continued her home levothyroxine. 

#Esophageal dysmotility: s/p PEG: We continued the Nutrition 
service's final tube feed recommendations from her last 
admission. 

TRANSITIONAL ISSUES
===================
[] Follow up on respiratory secretions and respiratory status 
off of antibiotics
[] Continue to monitor for signs of urinary retention, consider 
outpatient urodynamic studies if persistently retaining.
[] Ventilator settings at discharge: RR 13, TV 300, PEEP 5, FiO2 
30%

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 20 mg PO QPM 
3. Carbidopa-Levodopa (___) 2 TAB PO TID ___, 1000, 1600 
4. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
5. Ipratropium Bromide Neb 1 NEB IH Q6H 
6. OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. melatonin 3 mg oral QHS 
10. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
11. Carbidopa-Levodopa (___) 1.5 TAB PO DAILY at ___ 
12. Carbidopa-Levodopa (___) 1 TAB PO DAILY at 0000 
13. Levalbuterol Neb 0.63 mg NEB Q6H 
14. Polyethylene Glycol 17 g PO DAILY 
15. PredniSONE 10 mg PO DAILY 
16. Clotrimazole Cream 1 Appl TP BID 
17. formoterol fumarate 20 mcg/2 mL inhalation BID 
18. Enoxaparin Sodium 30 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
19. Nystatin Cream 1 Appl TP BID 
20. Carbidopa-Levodopa (___) 2.5 TAB PO DAILY at 1300 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Atorvastatin 20 mg PO QPM  
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
4.  Carbidopa-Levodopa (___) 2 TAB PO TID ___, 1000, 1600  
5.  Carbidopa-Levodopa (___) 1.5 TAB PO DAILY at ___  
6.  Carbidopa-Levodopa (___) 1 TAB PO DAILY at 0000  
7.  Carbidopa-Levodopa (___) 2.5 TAB PO DAILY at 1300  
8.  Clotrimazole Cream 1 Appl TP BID  
9.  Enoxaparin Sodium 30 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time  
10.  formoterol fumarate 20 mcg/2 mL inhalation BID  
11.  Ipratropium Bromide Neb 1 NEB IH Q6H  
12.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
13.  Levalbuterol Neb 0.63 mg NEB Q6H  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  melatonin 3 mg oral QHS  
16.  Multivitamins W/minerals 1 TAB PO DAILY  
17.  Nystatin Cream 1 Appl TP BID  
18.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate  
19.  Polyethylene Glycol 17 g PO DAILY  
20.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary 
======= 
Acute on Chronic Hypoxic Respiratory Failure s/p Tracheostomy 
 
Secondary 
========= 
___ Disease 
Dementia 
Esophageal Dysmotility 
Hypertension 
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having more secretions and there was concern for a 
pneumonia on your home chest X-Ray.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We repeated a Chest X-Ray which did not show any signs of 
pneumonia.
- You were given 1 dose of antibiotics in the ED but due to our 
low concern for pneumonia based on your breathing and chest 
X-Ray, we decided to stop antibiotics and watch you closely in 
the ICU and we did not see any more signs of pneumonia.
- You returned to your baseline and were discharged home.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team   
 
Followup Instructions:
___